US08431575B2
To a solution of 4-(6-butyl-5-{4-cyclohexyloxy-3-[1-(2-methoxy-ethyl)-1H-pyrazol-4-yl]-phenyl}-pyridazin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (0.107 mmol, 68 mg) in DCM (1.5 mL) was added 4 N HCl in dioxane (0.5 mL) and the reaction mixture was stirred for 40 min. The organic solvents were removed in vacuo and the residue was triturated with anhydrous diethyl ether. The yellow solid was dried overnight under high vacuum to give 3-butyl-4-{4-cyclohexyloxy-3-[1-(2-methoxy-ethyl)-1H-pyrazol-4-yl]-phenyl}-6-(piperidin-4-yloxy)-pyridazine dihydrochloride (59.5 mg).

reactant | 4-(6-butyl-5-{4-cyclohexyloxy-3-[1-(2-methoxy-ethyl)-1H-pyrazol-4-yl]-phenyl}-pyridazin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.107 mmol, 68 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OC1CCCCC1)C=1C=NN(C1)CCOC)CCCC | C36H51N5O5
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 3-butyl-4-{4-cyclohexyloxy-3-[1-(2-methoxy-ethyl)-1H-pyrazol-4-yl]-phenyl}-6-(piperidin-4-yloxy)-pyridazine dihydrochloride | 59.5 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC(=C(C=C1)OC1CCCCC1)C=1C=NN(C1)CCOC)OC1CCNCC1 | InChI=1S/C31H43N5O3.2ClH/c1-3-4-10-29-27(20-31(35-34-29)39-26-13-15-32-16-14-26)23-11-12-30(38-25-8-6-5-7-9-25)28(19-23)24-21-33-36(22-24)17-18-37-2;;/h11-12,19-22,25-26,32H,3-10,13-18H2,1-2H3;2*1H
